US05055464
With 100 ml of dimethylformamide is mixed 12.2 g of trans-3-amino-2-(2-thienyl)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide, and 2.7 g of 60% sodium hydride is added to the mixture under ice-cooling. The reaction temperature is gradually elevated to room temperature. The mixture is stirred for 2 hours. After the reaction mixture is cooled again to about 10° C., 5.7 g of ethyl bromoacetate is added dropwise. The reaction temperature is elevated to room temperature, and thereafter the mixture is stirred for one night and concentrated under reduced pressure. Ice water and ethyl acetate are poured to the residue to extract the organic substance. The ethyl acetate layer is washed with water, and dried. After the solvent is distilled off under reduced pressure, the obtained residue is purified by silica gel chromatography to give 8.0 g of ethyl trans-3-amino-4-oxo-2-(2-thienyl)-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate as oily substance.

reactant | trans-3-amino-2-(2-thienyl)-2,3-dihydro-1,5-benzothiazepin-4(5H)-one hydrobromide | 12.2 g | Br.N[C@H]1[C@@H](SC2=C(NC1=O)C=CC=C2)C=2SC=CC2
reactant | sodium hydride | 2.7 g | [H-].[Na+]
reactant | ethyl bromoacetate | 5.7 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl trans-3-amino-4-oxo-2-(2-thienyl)-2,3,4,5-tetrahydro-1,5-benzothiazepine-5-acetate | 8.0 g | N[C@H]1[C@@H](SC2=C(N(C1=O)CC(=O)OCC)C=CC=C2)C=2SC=CC2 | C17H18N2O3S2
